US04308270
To 2.0 g. of 3-phenyl-6-tosyloxymethyl-5,6-dihydro-4H-1,2,4-oxadiazine 30 ml. of chlorobenzene and 3 ml. of methylcyclohexyl amine are added and the reaction mixture is refluxed for 6 hours. The mixture is then cooled down and the precipitated product is filtered off, dissolved in ethyl acetate and the solution is acidified with hydrochloric acid in ethanol. 1.1 g. of 3-phenyl-6-(N-methyl-N-cyclohexylamino)-methyl-5,6-dihydro-4H-1,2,4-oxadiazine dihydrochloride are obtained, which has the same properties as the product of Example 2.

reactant | 3-phenyl-6-tosyloxymethyl-5,6-dihydro-4H-1,2,4-oxadiazine | 30 ml | C1(=CC=CC=C1)C1=NOC(CN1)COS(=O)(=O)C1=CC=C(C)C=C1 | C17H18N2O4S
reactant | methylcyclohexyl amine | CNC1CCCCC1 | C7H15N
reactant | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 3-phenyl-6-(N-methyl-N-cyclohexylamino)-methyl-5,6-dihydro-4H-1,2,4-oxadiazine dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C1=NOC(CN1C)N(C1CCCCC1)C | InChI=1S/C17H25N3O.2ClH/c1-19-13-16(20(2)15-11-7-4-8-12-15)21-18-17(19)14-9-5-3-6-10-14;;/h3,5-6,9-10,15-16H,4,7-8,11-13H2,1-2H3;2*1H
